US06303636B1
A solution of 1-(4methoxybenzenesulfonylamino)cyclopentane-1-carboxylic acid benzyloxyamide (1.50 grams, 3.71 mmole) in methanol (200 mL) was treated with 5% palladium on barium sulfate (0.75 grams) and hydrogenated at 3 atmospheres pressure for 3.5 hours in a Parr shaker. The catalyst was removed by passage through a 0.45 μm nylon filter and the filtrate was concentrated to afford 1-(4-methoxybenzenesulfonylamino)-cyclopentane-1-carboxylic acid hydroxyamide as a white solid, 1.13 grams (97%). MS: 313 (M−1).

reactant | 1-(4methoxybenzenesulfonylamino)cyclopentane-1-carboxylic acid benzyloxyamide | 3.71 mmole, 1.50 grams | C(C1=CC=CC=C1)ONC(=O)C1(CCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC | C20H24N2O5S
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium on barium sulfate | 0.75 grams | [Pd] | Pd
product | 1-(4-methoxybenzenesulfonylamino)-cyclopentane-1-carboxylic acid hydroxyamide | ONC(=O)C1(CCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC | C13H18N2O5S
